US07572809B2
Similar procedure as described in example 10 was used, starting from 4-chloro-phenol and (1-chloro-7-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine to give [1-(4-chloro-phenoxy)-7-methoxy-isoquinolin-3-yl]-(5-methyl-1H-pyrazol-3-yl)-amine. LC-MS m/e 381(MH+).

reactant | 4-chloro-phenol | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | (1-chloro-7-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC=C(C=C12)OC)NC1=NNC(=C1)C | C14H13ClN4O
product | [1-(4-chloro-phenoxy)-7-methoxy-isoquinolin-3-yl]-(5-methyl-1H-pyrazol-3-yl)-amine | ClC1=CC=C(OC2=NC(=CC3=CC=C(C=C23)OC)NC2=NNC(=C2)C)C=C1 | C20H17ClN4O2
